US05248825
Mix 4-(dimethylamino)benzyl alcohol (3.35 g. 22 mmol), 3-hydroxybenzaldehyde (2.69 g, 22 mmol), triphenylphosphine (5.8 g, 22 mmol) and diethylazadicarboxylate (3.83 g, 22 mmol) in tetrahydrofuran (25 mL). Stir at room temperature under anhydrous atmosphere until the reaction is done. Concentrate the solution in vacuo and dilute with a small quantity of ethyl ether. Filter any precipitate and concentrate the filtrat in vacuo. Purify by silica gel chromatography to give 3-(4-(dimethylamino)-benzyloxy) benzaldehyde.

reactant | 4-(dimethylamino)benzyl alcohol | 22 mmol, 3.35 g | CN(C1=CC=C(CO)C=C1)C | C9H13NO
reactant | 3-hydroxybenzaldehyde | 22 mmol, 2.69 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | triphenylphosphine | 22 mmol, 5.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 3-(4-(dimethylamino)-benzyloxy) benzaldehyde | CN(C1=CC=C(COC=2C=C(C=O)C=CC2)C=C1)C | C16H17NO2
